US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-(4-nitro-benzylidene)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.19 g, 0.74 mmol) was reacted with 4-nitrobenzaldehyde (0.112 g, 0.74 mmol) in 1.5 mL of 4% KOH in ethanol for 3 hours at room temperature to afford 0.195 g (68%) of the title compound as a fine tan powder, mp 184-185° C.: CI-MS m/e 389 (M+), 390 (M+ +1);

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.74 mmol, 0.19 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 4-nitrobenzaldehyde | 0.74 mmol, 0.112 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | KOH | 1.5 mL | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-(4-nitro-benzylidene)-3,4-dihydro-2H-naphthalen-1-one | 0.195 g, 68% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C22H19N3O4
